datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc2ccc(OC)c([N+:21]3([H:20])CCOCC3)c2c1N1CCOCC1.Nc1c2[n-]cnc2nc([NH-:10])[n+]1[O-]>>COc1ccc2ccc(OC)c([N:21]3CCOCC3)c2c1N1CCOCC1.Nc1c2[n-]cnc2nc([NH:10][H:20])[n+]1[O-] 10=20;20,21=21",
"C[N+:21](C)(CCC/N=C(\c1ccccc1)c1cccc2ccccc12)[H:20].c1ccc2c(c1)-c1cccc([O-:10])c1-2>>C[N:21](C)CCC/N=C(\c1ccccc1)c1cccc2ccccc12.c1ccc2c(c1)-c1cccc([O:10][H:20])c1-2 10=20;20,21=21",
"Cc1ccc(C)[n+:21]([H:20])c1.Cc1ccc([O-:10])c(CO)c1>>Cc1ccc(C)[n:21]c1.Cc1ccc([O:10][H:20])c(CO)c1 10=20;20,21=21",
"CC/C=C/CC1=[NH+]C(C(=O)[O:21][H:20])C2SC(C)(C)C(C(=O)O)N12.CCc1cc(Cl)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC>>CC/C=C/CC1=[NH+]C(C(=O)[O-:21])C2SC(C)(C)C(C(=O)O)N12.CCc1cc(Cl)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC 10=20;20,21=21",
"C[N+](C)(C)c1ccc([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)N(c1ccccc1)[O-:10].O=C(CCCP)[O:21][H:20]>>CC(=O)N(c1ccccc1)[O:10][H:20].O=C(CCCP)[O-:21] 10=20;20,21=21",
"C[NH:10]C(CO)CO.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](C(CO)CO)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C([O-])C(Cc1c[nH]cn1)[NH2+:21][H:20].OCC[N:10](CCO)CCc1nnn[nH]1>>O=C([O-])C(Cc1c[nH]cn1)[NH2:21].OCC[N+:10](CCO)(CCc1nnn[nH]1)[H:20] 10=20;20,21=21",
"CC(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CC(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"Cc1c2cc[n:10]cc2cc2c1[nH]c1cc[nH+]cc12.c1ccc2c(c1)c[n+:21]([H:20])c1ccccc21>>Cc1c2cc[n+:10]([H:20])cc2cc2c1[nH]c1cc[nH+]cc12.c1ccc2c(c1)c[n:21]c1ccccc21 10=20;20,21=21",
"CNc1sc(c2ccccc2)n[n:10]1.COc1cccc(C[N+:21]2([H:20])CC(O[Si](C)(C)C)C2)c1>>CNc1sc(c2ccccc2)n[n+:10]1[H:20].COc1cccc(C[N:21]2CC(O[Si](C)(C)C)C2)c1 10=20;20,21=21",
"CC1CC[NH:10]CC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC1CC[NH+:10]([H:20])CC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1[nH]c2c([n+:21]1[H:20])NC(=O)NC2=O.Cc1ccc(C(=O)[O-:10])[nH]1>>Cc1[nH]c2c([n:21]1)NC(=O)NC2=O.Cc1ccc(C(=O)[O:10][H:20])[nH]1 10=20;20,21=21",
"CCOc1c(C#N)c[n+:21]([H:20])c2ccccc12.COc1ccccc1C(=O)[O-:10]>>CCOc1c(C#N)c[n:21]c2ccccc12.COc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(O)C(=O)[O:21][H:20].Clc1cccc[n:10]1>>CC(C)(O)C(=O)[O-:21].Clc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C[N+:21](C)(c1ccc([N+](=O)[O-])cc1)[H:20].N#CCCC(=O)[O-:10]>>C[N:21](C)c1ccc([N+](=O)[O-])cc1.N#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CN1C(=O)c2cn[n:21]([H:20])c2N(C)C1=O.Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N:10]1CCOCC1>>CN1C(=O)c2cn[n-:21]c2N(C)C1=O.Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"COc1cc(C[NH2+:21][H:20])ccc1O.Oc1ccc2c(c1)Cc1cc([NH2:10])ccc1-2>>COc1cc(C[NH2:21])ccc1O.Oc1ccc2c(c1)Cc1cc([NH2+:10][H:20])ccc1-2 10=20;20,21=21",
"C=CC(C)[NH:10]c1ccccc1.Cn1cnc2c([O-])[n+:21]([H:20])c(N)nc21>>C=CC(C)[NH+:10](c1ccccc1)[H:20].Cn1cnc2c([O-])[n:21]c(N)nc21 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n:10]c1.CN1C(=O)C2=C(N(C)C1=O)[N:21]([H:20])C(=O)N2C>>CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n+:10]([H:20])c1.CN1C(=O)C2=C(N(C)C1=O)[N-:21]C(=O)N2C 10=20;20,21=21",
"CN(C)c1nc[n+:21]([H:20])c2c1ncn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.COCc1ccccc1C(=O)[O-:10]>>CN(C)c1nc[n:21]c2c1ncn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.COCc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCCCCc1cccn[n+:21]1[H:20].[O-]c1ccccc1[O-:10]>>CCCCCc1cccn[n:21]1.[O-]c1ccccc1[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(CCC(=O)[O-])[H:20].O=N/C(Cc1ccccc1)=N\[O-:10]>>C[N:21](C)CCC(=O)[O-].O=N/C(Cc1ccccc1)=N\[O:10][H:20] 10=20;20,21=21",
"CCC#CC#CC(=O)[O-:10].Cc1c([N+](=O)[O-])ccc2c(NCCC[NH+](C)C)cc[n+:21]([H:20])c12>>CCC#CC#CC(=O)[O:10][H:20].Cc1c([N+](=O)[O-])ccc2c(NCCC[NH+](C)C)cc[n:21]c12 10=20;20,21=21",
"N[C@H]1CC(=O)N(CCCC[C@@H](C(=O)[O-])[NH2:10])C1=O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N[C@H]1CC(=O)N(CCCC[C@@H](C(=O)[O-])[NH2+:10][H:20])C1=O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(Cc1ccccc1)C(C[N+:21]1([H:20])CCOCC1)c1ccccc1.O=C([O-])c1ncccc1[NH2:10]>>O=C(Cc1ccccc1)C(C[N:21]1CCOCC1)c1ccccc1.O=C([O-])c1ncccc1[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)n1cc[n+:21]([H:20])c1.CC1CCCC(C)(C)[NH:10]1>>CC(=O)n1cc[n:21]c1.CC1CCCC(C)(C)[NH+:10]1[H:20] 10=20;20,21=21",
"CC(C)[NH+](CCC(c1ccccc1)c1cccc[n:10]1)C(C)C.Nc1c2ccccc2[n+:21]([H:20])c2c1ccc1c([N+](=O)[O-])cccc12>>CC(C)[NH+](CCC(c1ccccc1)c1cccc[n+:10]1[H:20])C(C)C.Nc1c2ccccc2[n:21]c2c1ccc1c([N+](=O)[O-])cccc12 10=20;20,21=21",
"Nc1nc[n+:21]([H:20])c2ncn([C@H]3O[C@H](CO)[C@@H](O)[C@H]3O)c12.c1[nH]c2ccc([NH2:10])cc2[nH+]1>>Nc1nc[n:21]c2ncn([C@H]3O[C@H](CO)[C@@H](O)[C@H]3O)c12.c1[nH]c2ccc([NH2+:10][H:20])cc2[nH+]1 10=20;20,21=21",
"O=C(C12CC3CC(CC(F)(C3)C1)C2)[O:21][H:20].OC(C[NH+]1CCCC1)C[N:10]1CCCC1>>O=C(C12CC3CC(CC(F)(C3)C1)C2)[O-:21].OC(C[NH+]1CCCC1)C[N+:10]1([H:20])CCCC1 10=20;20,21=21",
